US08026366B2
To a stirred solution of 7-benzyloxy-2-ethylthiazolo[4,5-c]quinoline (15.0 g, 46.8 mmol) in chloroform (150 mL), 3-chloroperoxybezoic acid (m-CPBA. 50% w/w, 16.15 g, 46.8 mmol) was slowly added in small portions. The reaction was maintained at room temperature overnight. The reaction mixture was transferred to a separatory funnel and washed with 10% aqueous sodium carbonate (2×50 mL). The chloroform layer was concentrated to provide 15.4 g of 7-benzyloxy-2-ethylthiazolo[4,5-c]quinoline 5-oxide as a light tan solid. MS (ACPI) m/z=337 (M+H)+. This material was carried on without further purification to the next step.

reactant | 7-benzyloxy-2-ethylthiazolo[4,5-c]quinoline | 46.8 mmol, 15.0 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(S3)CC | C19H16N2OS
reactant | 3-chloroperoxybezoic acid | 46.8 mmol, 16.15 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-benzyloxy-2-ethylthiazolo[4,5-c]quinoline 5-oxide | 15.4 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=[N+](C2C1)[O-])N=C(S3)CC | C19H16N2O2S
